US05641788
According to the same manner as that described in Example 3, 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline was reacted with imidazole to give 3-benzoyl-4-(3,4-dimethoxyphenyl)-2-(1-imidazolylmethyl)-6,7-dimethoxyquinoline. This compound was recrystallized from ethanol to give colorless prisms. mp. 214°-215° C.

reactant | 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CBr | C27H24BrNO5
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 3-benzoyl-4-(3,4-dimethoxyphenyl)-2-(1-imidazolylmethyl)-6,7-dimethoxyquinoline | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CC=1NC=CN1 | C30H27N3O5
